US06060488
6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[(1-Hexylpiperidin-3-yl)methoxy]benzoyl)benzo[b]thiophene
6-Methoxy-2-(4-methoxyphenyl)-3-(4-[(1-hexylpiperidin-3-yl)methoxy]benzoyl)benzo[b]thiophene (1.24 g, 2.17 mmol), ethane thiol (10.8 mmol), and aluminum chloride (1.73 g, 13.0 mmol) were converted to 224 mg (19%) of the title compound by the procedure of Example 16. MS(FD) 544(M+). EA calculated for C33H37NO4S: C, 72.90; H, 6.86; N, 2.58. Found: C, 73.14; H, 7.04; N, 2.52.

reactant | 6-Methoxy-2-(4-methoxyphenyl)-3-(4-[(1-hexylpiperidin-3-yl)methoxy]benzoyl)benzo[b]thiophene | 2.17 mmol, 1.24 g | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCC2CN(CCC2)CCCCCC)=O)C2=CC=C(C=C2)OC)C1 | C35H41NO4S
reactant | ethane thiol | 10.8 mmol | C(C)S | C2H6S
reactant | aluminum chloride | 13.0 mmol, 1.73 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[(1-Hexylpiperidin-3-yl)methoxy]benzoyl)benzo[b]thiophene | 224 mg, 19% | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCC2CN(CCC2)CCCCCC)=O)C2=CC=C(C=C2)O)C1 | C33H37NO4S
